US04395406
1-Methyl-4-methylthio-5-fluoropyrimid-2-one
Methyl iodide (0.017 mol) was added to the potassium salt of 4-methylthio-5-fluoropyrimid-2-one (0.012 mol) in dimethylformamide (50 ml) and the reaction mixture was stirred at room temperature for 24 h before evaporation at reduced pressure (1 mm Hg). The residue was extracted with chloroform and the solution was washed with aqueous 2 N NaOH, with water and was dried (MgSO4) before evaporation. The product was recrystallized from EtOAc/ligroin; yield 76%, m.p. 154° C. (Found: C, 41.48; H, 4.10. Calc. for C6H7FN2OS: C, 41.37; H, 4.05).

reactant | Methyl iodide | 0.017 mol | CI | CH3I
reactant | potassium | [K] | K
reactant | 4-methylthio-5-fluoropyrimid-2-one | 0.012 mol | CSC1=NC(NC=C1F)=O | C5H5FN2OS
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-4-methylthio-5-fluoropyrimid-2-one | yield 76% | CN1C(N=C(C(=C1)F)SC)=O | C6H7FN2OS
